US07964643B2
3′-Nitrobiphenyl sulfonyl chloride
3′-Nitrobiphenyl sulfonic acid (2 g) was refluxed in thionyl chloride (30 mL) with a catalytic quantity of DMF (0.5 mL) for 4 hours. Toluene was added and the solvents evaporated under vacuum. The residue was recrystallised from ethyl acetate/petrol to give the title compound as white crystals.

reactant | 3′-Nitrobiphenyl sulfonic acid | 2 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1C(=CC=CC1)S(=O)(=O)O | C12H9NO5S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
product | 3′-Nitrobiphenyl sulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)C=1C(=CC=CC1)S(=O)(=O)Cl | C12H8ClNO4S
